US07560558B2
Compound 291: 4-(4-Bromo-2-methyl-quinolin-3-yloxy)-6,7-dimethoxy-quinoline
4-Bromo-3-hydroxy-2-methyl-quinoline (35 mg), 4-chloro-6,7-dimethoxyquinoline (110 mg), and 4-dimethylaminopyridine (89 mg) were suspended in o-dichlorobenzene (5 ml), and the suspension was stirred at 140° C. for 5 hr. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. The residue was purified by thin layer chromatography using acetone-chloroform to give the title compound (20 mg, yield 32%).

reactant | 4-Bromo-3-hydroxy-2-methyl-quinoline | 35 mg | BrC1=C(C(=NC2=CC=CC=C12)C)O | C10H8BrNO
reactant | 4-chloro-6,7-dimethoxyquinoline | 110 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-dimethylaminopyridine | 89 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-(4-Bromo-2-methyl-quinolin-3-yloxy)-6,7-dimethoxy-quinoline | 20 mg, yield 32% | BrC1=C(C(=NC2=CC=CC=C12)C)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C21H17BrN2O3
